datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:24])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])([H:21])([H:22])[H:23],34.7272
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[H:7])([H:5])[H:6],41.6308
[C:1](#[C:2][C:3]([C:4]([c:5]1[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]1[H:17])([H:18])[H:19])([H:20])[H:21])[H:22]>>[C:1](=[C:2]=[C:3]([C:4]1([H:19])[C:5](=[C:15]([H:17])[H:18])[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])=[C:13]1[H:14])[H:21])([H:20])[H:22],200.242056
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][H:15],0.866088
[C:0]([C:1]1([O:2][O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([O:2])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:8])([H:9])[H:10].[O:3][H:11],176.5648
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:31])([H:32])[H:33])[c:16]1[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]([H:37])[c:21]1[H:38])[c:22]1[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]([H:42])[c:27]1[H:43])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:28])([H:29])[H:30])([C:14]([C:15]([H:31])([H:32])[H:33])[c:16]1[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]([H:37])[c:21]1[H:38])[c:22]1[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]([H:42])[c:27]1[H:43])[H:7])([H:5])[H:6],79.747
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17],-6.35968
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:9])([H:7])[H:8],7.40568
[C:0](#[C:1][H:3])[H:2].[C:4]1([H:11])[C:5]([H:12])=[C:6]([H:13])[C:7]([H:14])=[C:8]([H:15])[C:9]([H:16])=[C:10]1[H:17]>>[C:0](=[C:1][H:3])([H:2])[C:4]1([H:11])[C:5]([H:12])=[C:6]([H:13])[C:7]([H:14])=[C:8]([H:15])[C:9]([H:16])=[C:10]1[H:17],84.0984
[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])=[O:3])([H:4])[H:5].[O:9][O:10]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])=[O:3])([H:4])([H:5])[O:9][O:10],-4.6024
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[H:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][H:14],26.9868
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18],111.671
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:20])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:20])[H:12],106.901
[C:1](=[C:2]1[C:4]([H:5])=[C:6]([H:7])[c:8]2[c:10]([H:11])[c:12]([H:13])[c:14]#[c:15][c:16]21)([H:18])[H:19].[H:20]>>[C:1](=[C:2]1[C:4]([H:5])=[C:6]([H:7])[c:8]2[c:10]([H:11])[c:12]([H:13])[c:14]([H:20])[c:15][c:16]21)([H:18])[H:19],-0.008368
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:14]>>[C:0](#[C:1][c:2]1[c:3][c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:9][H:14],40.5913
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5]([H:6])[H:7]>>[C:0]([O:1][H:6])([H:2])([H:3])[H:4].[O:5][H:7],48.0742
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13](=[S:14])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:18])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13](=[S:14])[H:20])[H:19])([H:15])([H:16])[H:17],53.2205
